US07906517B2
Crude methyl 6-acetylamino-hexanoate (5.19 g) is dissolved in tetrahydrofuran (50 ml) and thereto is added sodium borohydride (5.03 g). The reaction solution is heated under reflux and thereto is added dropwise acetic acid (7.6 ml) and the mixture is heated under reflux for 1 hour and 30 minutes. To the reaction solution is added water under ice-cooling and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in ethanol (30 ml) and thereto is added a 4N-hydrochloric acid in ethyl acetate (7.6 ml) and the mixture is stirred at room temperature overnight. To the reaction solution are added a 2N-aqueous sodium hydroxide solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give ethyl 6-ethylamino-hexanoate (1.74 g) as a crude product. MS (m/z): 188 [M+H]+

reactant | methyl 6-acetylamino-hexanoate | 5.19 g | C(C)(=O)NCCCCCC(=O)OC | C9H17NO3
reactant | sodium borohydride | 5.03 g | [BH4-].[Na+]
reactant | acetic acid | 7.6 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 6-ethylamino-hexanoate | 1.74 g | C(C)NCCCCCC(=O)OCC | C10H21NO2
